US09102692B2
4-imidazol-1-yl-phenyl amine (637 mg) was dissolved in 2 M hydrochloric acid/MeOH (3 ml), and this was concentrated under reduced pressure. The residue was suspended in concentrated hydrochloric acid (1 ml), and an aqueous solution of sodium nitrite (304 mg, 2.5 ml) was added dropwise thereto over 30 minutes at 0° C. on ice. The reaction mixture was slowly added dropwise to an aqueous solution prepared in advance from aqueous solutions of sodium hydrosulfite (2.3 g, 13 ml) and 5 M sodium hydroxide (400 μl), while keeping the temperature of the reaction mixture at 5° C. or lower. Then, the mixture was stirred at 25° C. for one hour. An ethanol solution (5 ml) of ethyl pyruvate (465 μl) was added dropwise to the reaction mixture. After stirring at 50° C. for 30 minutes, the mixture was further stirred at 25° C. for 10 hours. The pH of the mixture was adjusted to 11 using an aqueous solution (about 10 ml) of 20% potassium phosphate. The resulting precipitate was collected by filtration, and dried. Thus, 2-[(E)-4-imidazol-1-yl-phenylimino]-propionic acid ethyl ester was obtained as a pale yellow powder (1.1 g, 99%).

reactant | 4-imidazol-1-yl-phenyl amine | 637 mg | N1(C=NC=C1)C1=CC=C(C=C1)N | C9H9N3
reactant | ethanol | 5 ml | C(C)O | C2H6O
reactant | ethyl pyruvate | 465 μl | C(C(=O)C)(=O)OCC | C5H8O3
reactant | potassium phosphate | about 10 ml | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | hydrochloric acid MeOH | 2 M, 3 ml | Cl.CO
product | 2-[(E)-4-imidazol-1-yl-phenylimino]-propionic acid ethyl ester | C(C)OC(/C(/C)=N/C1=CC=C(C=C1)N1C=NC=C1)=O | C14H15N3O2
